2165-08-17 10:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2165-8-16**] 06:50 PM
 PICC LINE - START [**2165-8-16**] 06:50 PM
 INVASIVE VENTILATION - START [**2165-8-16**] 06:50 PM
 MULTI LUMEN - START [**2165-8-16**] 09:00 PM
 EKG - At [**2165-8-16**] 10:20 PM
 ARTERIAL LINE - START [**2165-8-16**] 10:30 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2165-8-16**] 11:20 PM
 EKG - At [**2165-8-16**] 11:30 PM
 FEVER - 103.4
F - [**2165-8-16**] 10:23 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-8-16**] 09:00 PM
   Amikacin - [**2165-8-16**] 11:00 PM
   Meropenem - [**2165-8-17**] 12:45 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-17**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 38.6
C (101.5
   HR: 137 (114 - 175) bpm
   BP: 120/69(81) {85/25(55) - 120/69(81)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 23 (13 - 23)mmHg
   Mixed Venous O2% Sat: 50 - 50
   Total In:
                                                                  3,150 mL
                                                                  3,425 mL
   PO:
   TF:
   IVF:
                                                                  2,872 mL
                                                                  2,985 mL
   Blood products:
                                                                    278 mL
                                                                    350 mL
   Total out:
                                                                     25 mL
                                                                    117 mL
   Urine:
                                                                     25 mL
                                                                     67 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,125 mL
                                                                  3,308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 470) mL
   Vt (Spontaneous): 440 (440 - 440) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.30/59/65/29/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 65
   Physical Examination
   Vitals: T:101.4 BP:67/49 HR:153 O2Sat: 100% intubated
   GEN: intubated, minimally responsive withdraws from pain, large obese
   female, with multiple ecchymosis, cool ext, acutely distressed
   HEENT: 7mm dilated pupils, reactive, sclera anicteric, dry MM,
   intubated
   NECK: difficult to assess JVD, no cervical lymphadenopathy, trachea
   midline
   COR: tachycardic, no M/G/R, S1 S2
   PULM: coarse breathe sounds and rhonchi diffusely with transmitted
   ventilation, no W/R
   ABD: Soft, ND, +BS, large hematoma on on right lateral abd
   EXT: No edema, cool ext, mimimal mottling of lower ext
   NEURO: awake, but minimally responsive, pupils dilated, but reactive to
   light. Moves all 4 extremities spont. Patellar DTR +1. Plantar reflex
   downgoing.
   SKIN: No jaundice, multiple large ecchymoses on upper and lower ext
   Labs / Radiology
   103 K/uL
   10.8 g/dL
   216 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.2 mEq/L
   39 mg/dL
   102 mEq/L
   141 mEq/L
   31.0 %
   3.2 K/uL
        [image002.jpg]
                             [**2165-8-16**]  06:57 PM
                             [**2165-8-16**]  07:17 PM
                             [**2165-8-16**]  09:59 PM
                             [**2165-8-16**]  10:15 PM
                             [**2165-8-16**]  10:27 PM
                             [**2165-8-17**]  12:40 AM
                             [**2165-8-17**]  01:27 AM
                             [**2165-8-17**]  05:57 AM
                             [**2165-8-17**]  06:31 AM
   WBC
   4.0
   4.1
   3.2
   Hct
   21.9
   22
   24
   27.7
   31.0
   Plt
   125
   145
   103
   Cr
   0.9
   1.1
   TropT
   0.13
   TCO2
   43
   39
   36
   35
   30
   Glucose
   [**Telephone/Fax (3) 9777**]
   Other labs: PT / PTT / INR:14.5/34.0/1.3, CK / CKMB /
   Troponin-T:72/6/0.13, ALT / AST:25/8, Alk Phos / T Bili:64/0.4, Amylase
   / Lipase:23/11, Differential-Neuts:7.0 %, Band:22.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:172 ng/mL, Fibrinogen:392 mg/dL, Lactic
   Acid:3.6 mmol/L, Albumin:2.9 g/dL, LDH:641 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   This is a 55 year-old female with a history of COPD and respiratory
   failure, MAT/a-flutter, who was intially admitted to [**Hospital3 **]
   with MAT/a-fib, respiratory distress, intubated and treated for UTI and
   transferred per family request.
   .
   #. Septic Shock - Patient meets SIRS criteria with tachycardia, fever
   (101-103), and RR and 45%bands. Pt lactate 3.7.  Likely source is
   urinary vs respiratory vs line infection. The patient has been at [**Hospital **] and resident of [**Hospital1 630**] so nosocomial infections are high on the
   differential. The patient's hypotension is likely multifactorial.
   Contributing factors include her MAT/a-flutter with rapid rate, likely
   infection from UTI, pseudomonas pna or line infection.  She was placed
   on levophed gtt and neo gtt.  CXR showed pna vs effusion vs pulm edema
   vs ARDS.
   - likely secondary to infx per above: continue vanc/[**Last Name (un) 430**]/amikacin.
   - ID c/s today
   - call OSH for sensitivities
   - TTE today to assess for cardiac fxn
   - IV fluids to goal CVP 8-12, trend lactate, trend WBC/diff
   - IV fluid boluses
   - Levophed and Neo to maintain MAP > 65 and UOP > 30cc/hr, but may use
   dopa depending on Echo
   - Transfuse for Hct > 30 if remains in spetic shock
   - cont treatment with Amikacin given Proteus in urine and pseudomonas
   in sputum
   - check amikacin peak and trough
   - repeat CXR in AM
   - f/u BCx, Ucx, sputum, pull line and culture tip
   - stress dose steriods, increase to solumedrol 60 [**Hospital1 **] (pt was on 2d ago
   at OSH)
   - cooling blankets prn
   .
   #. Tachycardia: Pt with MAT/a-flutter Her rates on admission were as
   high as 150-180's.  She was started on amio (bolus 150mg, then 1mg/hr)
   due to hypotension nodal agents were deferred.  Her fast rate is likely
   contributing to her hypotension.  She was previously controlled on po
   lopressor, dilt and dig. Also on the differential is possible
   underlying PE driving her tachycardia, although given Hct drop would
   not start anti-coagulation.  Additionally, sepsis and pain also likely
   driving her tachycardia. Cardioverted yesterday night into sinus tach
   (130-140s)
   - cont Amio gtt for now, hold nodal agents given hemodynamic instab [**2-25**]
   septic shock per above, wait for TTE
   - repeat ECG in AM
   - hold on anti-coagulation given bleeding and Hct drop
   - LENI to r/o DVT
   - first set CE neg, will ROMI
   - check dig level
   #. Respiratory Failure: Pt with COPD and frequent admissions for
   respiratory failure.  She was initially admitted to and placed on
   BiPAP, but required intubtion after desat. ABG here showed
   7.35/74/162/43. AC 540/15/5/100%. Possible PNA given pseudomonas in
   sputum and as well as chronic aspirations. CXR showed b/l diffuse
   infiltrates/effusions R>L. DDx: Multi-focal Pneumonia, pulmonart edema
   Aspiration pneumonitis, effusision, ARDS
   - CXR in AM
   - cont methylpred
   - albuterol/ ipratropium nebs
   - Pt likely lives at an elevated PCO2 given elevated Bicarb. Pt also
   autopeeping and thus will increase PEEP to 10 and attempt to decrease
   RR.  Will follow closely with ABG.
   .
   #. Anemia: Pt Hct on admission was 21.9. This is down from 25 at the
   OSH. Pt with multiple ecchymosis on exam.  No evidence of active
   bleeding. Other possiblities could be RP or intraperitonea bleed.
   - active T&C 4U
   - Transfuse 2U pRBC and repeat Hct
   - hemolysis labs
   - guaiac stools
   - if continues to drop Hct plan for CT-torso
   .
   #. Thrombocytopenia: Pt plts 125. HIT negative at OSH. Stable, will
   cont to monitor and trend.
   #. UTI: See above. Growing proteus in urine.
   - cont amikacin for now
   - repeat UA/UCx
   .
   #. Pseudomonas Sputum: growing from sputum. Question as to whether
   colonization vs active infection. CXR was reportly normal at OSH. Is
   being covered with amikacin.
   - CXR
   - repeat sputum cx
   - cont amikacin
   - started meropenem
   .
   #. IDDM: Pt on steriods. Will initiated ISS and lantus 24U q12.
   Monitor QACHS FS and cover with ISS.
   .
   # FEN: NPO, will plan to initiate TF tomorrow. Nutrition consult
   .
   # Access: PICC line (placed at OSH)
   Left fem CVL, left radial a-line
   .
   # PPx: pneumoboots, PPI,
   .
   # Code: FULL CODE
   .
   # Dispo: ICU for now
   .
   # Comm: Family attempted to be contact[**Name (NI) **] at time of admission. Spoke
   with husband at length to update him overnight.
   Husband [**First Name8 (NamePattern2) **] [**Name (NI) 9775**]) [**Telephone/Fax (1) 9776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-8-16**] 06:50 PM
   Multi Lumen - [**2165-8-16**] 09:00 PM
   Arterial Line - [**2165-8-16**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-08-18 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2165-8-17**] 02:10 PM
 MULTI LUMEN - START [**2165-8-17**] 03:27 PM
 FEVER - 104.0
C - [**2165-8-17**] 07:00 PM
   --OSH records: said were going to fax micro data. Surveillance MRSA and
   VRE positive. Pseudomonas in sputum, proteus/[**Female First Name (un) 188**] grew in urine.
   --Placed RIJ line
   --spoke with family about pt's condition
   --Renal recs: probably ischemic ATN. Suggest renal dosing of
   antibiotics.
   --Temperature spike to 102 and 104. Pan-cultured and cooling blanket
   placed.
   --worsening gases. Total of 2L of D5W with 150 mEq bicarb, unable to
   wean pressures. Renal contact[**Name (NI) **] regarding possible dialysis. Started on
   voriconazole, linezolid, bactrim, flagyl.
   Allergies:
   Penicillins
   Unknown;
   Valproic Acid And Derivatives
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-8-17**] 08:00 AM
   Linezolid - [**2165-8-17**] 08:40 PM
   Amikacin - [**2165-8-18**] 12:30 AM
   Voriconazole - [**2165-8-18**] 01:30 AM
   Metronidazole - [**2165-8-18**] 03:30 AM
   Meropenem - [**2165-8-18**] 06:30 AM
   Bactrim (SMX/TMP) - [**2165-8-18**] 06:30 AM
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-8-17**] 08:30 AM
   Pantoprazole (Protonix) - [**2165-8-17**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-18**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 37.7
C (99.9
   HR: 133 (115 - 154) bpm
   BP: 100/52(65) {84/48(58) - 141/69(88)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 125.8 kg (admission): 109.8 kg
   Height: 68 Inch
    CVP: 11 (5 - 16)mmHg
   Poor UOP<10 cc/hr
   Total In:
                                                                 11,193 mL
                                                                  2,865 mL
   PO:
                                  TF:
   IVF:
                                                                 10,753 mL
                                                                  2,865 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    390 mL
                                                                  1,182 mL
   Urine:
                                                                    190 mL
                                                                     32 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                  1,150 mL
   Balance:
                                                                 10,803 mL
                                                                  1,683 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 470) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.16/69/60/22/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 60
   Physical Examination
   GEN: intubated, minimally responsive withdraws from pain, large obese
   female, with multiple ecchymosis, cool ext, acutely distressed
   HEENT: 7mm dilated pupils, reactive, sclera anicteric, dry MM,
   intubated
   NECK: difficult to assess JVD, no cervical lymphadenopathy, trachea
   midline
   COR: tachycardic, no M/G/R, S1 S2
   PULM: coarse breathe sounds and rhonchi diffusely with transmitted
   ventilation, no W/R
   ABD: Soft, ND, +BS, large hematoma on on right lateral abd
   EXT: No edema, cool ext, mimimal mottling of lower ext
   NEURO: awake, but minimally responsive, pupils dilated, but reactive to
   light. Moves all 4 extremities spont. Patellar DTR +1. Plantar reflex
   downgoing.
   SKIN: No jaundice, multiple large ecchymoses on upper and lower ext
   Labs / Radiology
   22 K/uL
   8.7 g/dL
   350 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   38 mg/dL
   97 mEq/L
   134 mEq/L
   26.0 %
   2.6 K/uL
        [image002.jpg]
                             [**2165-8-17**]  06:31 AM
                             [**2165-8-17**]  11:07 AM
                             [**2165-8-17**]  12:55 PM
                             [**2165-8-17**]  07:12 PM
                             [**2165-8-17**]  07:19 PM
                             [**2165-8-17**]  09:38 PM
                             [**2165-8-18**]  01:16 AM
                             [**2165-8-18**]  01:50 AM
                             [**2165-8-18**]  05:06 AM
                             [**2165-8-18**]  06:12 AM
   WBC
   3.3
   3.1
   2.6
   Hct
   30.5
   30.1
   26.0
   Plt
   69
   39
   22
   Cr
   1.2
   1.3
   1.3
   TropT
   0.37
   TCO2
   30
   26
   26
   25
   24
   26
   26
   Glucose
   [**Telephone/Fax (3) 9784**]
   Other labs: PT / PTT / INR:19.3/50.9/1.8, CK / CKMB /
   Troponin-T:122/5/0.37, ALT / AST:[**Telephone/Fax (1) 9785**], Alk Phos / T Bili:49/0.8,
   Amylase / Lipase:23/11, Differential-Neuts:35.0 %, Band:23.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:172 ng/mL, Fibrinogen:660
   mg/dL, Lactic Acid:5.7 mmol/L, Albumin:2.9 g/dL, LDH:3867 IU/L,
   Ca++:6.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Fingersticks: 193-361
   Lactate: 5.8-5.7-5.7
   Culure data:
   Blood ([**8-16**]): gram positive cocci in pairs and clusters.
   Blood ([**8-17**]): gram negative rods
   Sputum ([**2165-8-17**]): [**First Name9 (NamePattern2) 3798**] [**Location (un) 308**]. 4+ GPC in pairs and clusters and 4+
   gram negative rods
   Blood, mycolytic blood cultures pending
   Urine culture pending.
   CXR: Worsening pulmonary congestion bilaterally. Pleural effusions
   bilaterally. RIJ in place.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assesment: This is a 55 year-old female with a history of COPD and
   respiratory failure, MAT/a-flutter, chronic steroid use, who was
   intially admitted to [**Hospital3 **] with MAT/a-fib, respiratory
   distress, intubated and treated for UTI and transferred per family
   request.
   .
   Plan:
   .
   #. Septic Shock - Patient meets SIRS criteria with tachycardia, fever,
   and RR and 45%bands. Pt lactate elevated.  Likely source is
   respiratory, although urinary and line infection are possible. The
   patient has been at [**Hospital3 **] and resident of [**Hospital1 630**] so nosocomial
   infections are high on the differential. The patient's hypotension is
   likely multifactorial.  Contributing factors include her MAT/a-flutter
   with rapid rate, likely infection from UTI, pseudomonas pna or line
   infection.  She was placed on levophed gtt and neo gtt.  CXR showed pna
   vs effusion vs pulm edema vs ARDS.
   Hemodynamics
   - IV fluids to goal CVP 8-12
   - IV fluid boluses and Levophed and Dopamine to maintain MAP > 65 and
   UOP > 30cc/hr. Avoid Neo due to vasoconstrictive effects on
   limbs/organs.
   - Transfuse for Hct > 30
   - consulted renal for possible CVVH to remove fluid. +~11 liters over
   24 hours
   Infection: broad coverage for C.diff, gram +/- including VRE. Bactrim
   because long term steroid use.
   - Sputum (4+ GNR, 4+GPC in [**Hospital1 54**] culture, OSH culture showing
   pseudomonas) and blood (GPC, GNR in [**Hospital1 54**] culture). Reported VRE
   surveillance positive in OSH culture.
   - Started linezolid ([**8-16**]), amikacin (started at OSH), flagyl.
   - cont treatment with Amikacin given Proteus in urine and pseudomonas
   in sputum, treat with linezolid for VRE coverage (positive screen at
   OSH), meropenem for pseudomonas double coverage, voriconazole (at risk
   of fungal infection given chronic steroid use)
   - Need to renally dose medications
   - f/u urine, sputum, blood cxs.
   - consider activated protein C in patient, however, bleeding risks
   outweigh benefit.
   - trend WBC, fever curve
   - ID approval of abx.
   Metabolic: Has AG metabolic acidosis, likely due to lactate. With low
   pH on ABG, worry about cardiac asystole.
   - Continue to trend lactate
   - dialysis will help with lactate clearance
   #. Respiratory Failure: Pt with COPD and frequent admissions for
   respiratory failure.  Likely ARDS given sudden onset, P/F ratio<200,
   pulmonary edema which is unlikely cardiogenic. Also has underlying
   pseudomonas pneumonia. She was initially admitted to and placed on
   BiPAP, but required intubtion after desat. ABG with worsening
   hypercarbia and hypoxia. Possible PNA given pseudomonas in sputum. CXR
   showed b/l diffuse infiltrates/effusions R>L.
   - Consider placement of an esophageal balloon to clarify PEEP therapy.
   - If the patient is dialyzed, her respiratory status might improve.
   - CXR in AM
   - cont methylpred
   - albuterol/ ipratropium nebs
   #. Tachycardia: Pt with MAT/a-flutter Her rates on admission were as
   high as 150-180's.  She was started on amio (bolus 150mg, then 1mg/hr)
   due to hypotension nodal agents were deferred.  Her fast rate is likely
   contributing to her hypotension.  She was previously controlled on po
   lopressor, dilt and dig. Also on the differential is possible
   underlying PE driving her tachycardia, although given Hct drop would
   not start anti-coagulation.  Additionally, sepsis and pain also likely
   driving her tachycardia. The patient has troponin leaks, likely due to
   demand ischemia.
   - Received an amiodarone load on [**8-16**]. Decided to D/C because did not
   want to give oral med. Also, hypotensive and BP will not tolerate
   amiodarone.
   - Pending studies: echo, LENIs (to r/o DVTs and possible PE)
   - hold on anti-coagulation given bleeding and Hct drop
   ARF: Renal failure was initially likely pre-renal given sepsis. It has
   likely progressed to ischemic ATN. Has poor UOP.
   - consulted renal to dialyze patient.
   - need to renally dose medications and avoid nephrotoxins.
   - f/u renal note.
   #. DIC:.Increased PT/PTT, LDH. Thrombocytopenia (HIT negative at OSH).
   Fibrinogen elevated
   --Stable, will cont to monitor and trend.
   --Will treat underlying sepsis and see if DIC improves.
   --spoke about starting activated protein C, but risks of bleeding
   outweigh benefits.
   .
   #. Anemia: Pt
s crit continues to fall. Unsure if dilution. Doubt
   active bleeding.
   - active T&C
   - transfuse 1 unit of blood
   - check Hct q 4 hr
   - Consider CT of torso if continues to bleed.
   .
   Abdominal striae with oozing fluid: KUB done last night and cannot see
   anything.
   - consider abdominal CT if status worsens.
   #. UTI: See above. Growing proteus in urine from OSH.
   - cont amikacin for now
   - f/u UCx
   - obtain OSH records from [**Hospital3 **]
   .
   #. Pseudomonas Sputum from OSH. GPC, GNR in sputum at [**Hospital1 54**]: growing
   from sputum. Question as to whether colonization vs active infection.
   CXR was reportly normal at OSH. Is being covered with amikacin.
   - CXR
   - f/u sputum cx
   - OSH sensitivies need to be obtained
   - cont amikacin,  meropenem
   .
   #. IDDM: Pt on steriods. Will initiated ISS and lantus 24U q12.
   Monitor QACHS FS and cover with ISS.
   ICU Care
   Nutrition: NPO for now. D/C tubefeeds.
   Glycemic Control:  HISS.
   Lines:
   Arterial Line - [**2165-8-16**] 10:30 PM
   Multi Lumen - [**2165-8-17**] 03:27 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: pantoprazole
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: Will speak to family today about pt
   condition
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:
   55 yo F with septic shock and MODS (ARF, ARDS, worsening lactic
   acidosis).  She remains on 100% fio2 via vent.  She remains on 2
   pressors with progressive acidosis and rising lactate despite
   aggressive resuscitation.  She is anuric and in ARF.  Her antibx were
   broadened and vori added.  She is growing gpc pairs/clusters and gnr
   from blood and sputum.
   Tm 104   MAP 65   HR 130
s   RR 26   96%  cvp 11    11L +
   AC 400/26/18/100%  -->  7.16/69/60    plt 33
   intubated, unresponsive, pupils are dilated but rx,  coarse BS,
   tachy/[**Last Name (un) **], BS decreased, soft, diffuse echymosis/wheeping, cool
   /mottled ext
   Labs reviewed--persistent bandemia, leukopenic WBC 2.6,  hct 26,  plt
   22,  INR 1.8, cr 1.3, lactate 5.7
   CXR with worsening diffuse b/l ASD/edema R > L and effusions
   Micro reviewed
   Primary issues include:
     * Septic shock
     * Hypotension
     * Progressive lactic acidosis,
     * MOSD
     * resp failure/ards/pulm edema,
     * persistent tachycardia
     * arf,
     * persistent bandemia,
     * anemia
     * thrombocytopenia/coagulopathy
     * altered level of consciousness
   MODS in setting of progressive septic shock.  Continues to decline
   despite aggressive management. Her prognosis for recovery is grim.  We
   continue to  update family and address goals of care.  Will continue
   aggressive supportive care for septic shock, maintaining maps > 60 with
   pressors. Is now 11L pos.  Her oxygenation remains poor on 100%
   fio2/peep 18.  Rising lactate raises concern for ischemic bowel in
   setting of persistent shock and pressors. Continue broad empiric
   antibacterial and fungal coverage-linezolid, amikacin (follow levels),
   [**Last Name (un) 430**], flagyl, and vori. D/c bactrim as low suspicion for PCP. [**Name10 (NameIs) **] data.
   Continue stress hydrocort.  Continuous cardiac output monitoring w/
   vigileo. Trend lactate, lytes, SVO2.  Continue vent support, ards net
   TVs.  We are unable to wean O2.  She is maxed on what we can do from
   vent standpoint in term of her acid base status.  Renal is following,
   but given grim prognosis, CVVH would only be temporizing. We again
   discussed xigris, but her progressive coagulopathy and thrombocytopenia
   (and ? bleeding at admit) make her a poor candidate. ICU:  SSI, NPO, L
   fem, r IJ, radial a line, boots, PPI, sq hep, full code
   Remainder of plan as outlined in resident note
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2165-8-18**] 01:01 PM ------
   Addendum
   I met with pt
s family several times today to discuss her condition.
   They understand that she is in MODS, on full vent support requiring 2
   pressors to maintain her BP.  She continues to worsen despite
   aggressive support.  Renal was consulted and also spoke with the
   family.  CVVH would be a temporizing intervention.  I explained to
   family that pt would be unlikely to survive a cardiac arrest.  Family
   understands but pts husband and daughter remain understandably
   extrmeely distraught.  They are not ready to make any change to code
   status at this time.  We continue the current level of aggressive
   care.  Pt remains full code.
   Repeat gas and labs [**Last Name (un) **] pending.
   Additional critical care time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2165-8-18**] 18:11 ------
   Addendum
   Most recent labs reviewed.  Spoke with pt
s husband. Family has been
   informed that pt is in MODS and her chance of recovery remains grim.
   She remains unresponsive despite no sedation. Family continues to wish
   for aggressive care and full code, understadning the poor chance of
   recovery .  We will continue aggressive support and trial CVVH.   She
   remains a full code.  We will continue to update family and address
   goals of care.
   15 minutes critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2165-8-18**] 18:59 ------

2165-08-19 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --started on CVVH overnight
   --started dig 0.125, level 4.4, dcd only received one dose.
   --latest abg 7.16/62/68
   --dc
d fem line, renal fellow put in a dyalisis catheter
   --increased dopa and levo to 10 and 3.5 respectively in setting of CVVH
   --persistently febrile up to 104.9
   Allergies:
   Penicillins
   Unknown;
   Valproic Acid And Derivatives
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-8-17**] 08:00 AM
   Linezolid - [**2165-8-17**] 08:40 PM
   Amikacin - [**2165-8-18**] 12:30 AM
   Bactrim (SMX/TMP) - [**2165-8-18**] 06:30 AM
   Meropenem - [**2165-8-18**] 06:00 PM
   Voriconazole - [**2165-8-18**] 09:00 PM
   Metronidazole - [**2165-8-19**] 04:00 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-8-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-19**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.5
C (104.9
   Tcurrent: 37.9
C (100.2
   HR: 127 (119 - 149) bpm
   BP: 103/53(66) {89/47(59) - 124/61(75)} mmHg
   RR: 7 (7 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127 kg (admission): 109.8 kg
   Height: 68 Inch
    CVP: 8 (8 - 19)mmHg
   Total In:
                                                                  4,776 mL
                                                                  1,545 mL
   PO:
   TF:
   IVF:
                                                                  4,776 mL
                                                                  1,545 mL
   Blood products:
   Total out:
                                                                  2,392 mL
                                                                  3,023 mL
   Urine:
                                                                     42 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
                                                                  2,350 mL
                                                                    500 mL
   Balance:
                                                                  2,384 mL
                                                                 -1,478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.16/62/68/22/-7
   Ve: 10.7 L/min
   PaO2 / FiO2: 68
   Physical Examination
   GEN: intubated, minimally responsive withdraws from pain, large obese
   female, with multiple ecchymosis, cool ext, acutely distressed
   HEENT: 7mm dilated pupils, reactive, sclera anicteric, dry MM,
   intubated
   NECK: difficult to assess JVD, no cervical lymphadenopathy, trachea
   midline
   COR: tachycardic, no M/G/R, S1 S2
   PULM: coarse breathe sounds and rhonchi diffusely with transmitted
   ventilation, no W/R
   ABD: Soft, ND, +BS, large hematoma on right lateral abd, draining skin
   lesion on RLQ
   EXT:  2 + edema, cool ext, mimimal mottling of lower ext
   NEURO: but minimally responsive, pupils dilated, sluggish reaction to
   light.
   SKIN: No jaundice, multiple large ecchymoses on upper and lower ext,
   draining skin lesion on RLQ
   [**Year (4 digits) 503**] / Radiology
   20 K/uL
   8.7 g/dL
   116 mg/dL
   1.7 mg/dL
   22 mEq/L
   5.2 mEq/L
   40 mg/dL
   93 mEq/L
   133 mEq/L
   26.1 %
   2.6 K/uL
        [image002.jpg]
                             [**2165-8-18**]  01:50 AM
                             [**2165-8-18**]  05:06 AM
                             [**2165-8-18**]  06:12 AM
                             [**2165-8-18**]  12:12 PM
                             [**2165-8-18**]  12:32 PM
                             [**2165-8-18**]  05:55 PM
                             [**2165-8-18**]  10:00 PM
                             [**2165-8-19**]  03:51 AM
                             [**2165-8-19**]  04:15 AM
                             [**2165-8-19**]  07:02 AM
   WBC
   2.8
   2.5
   2.5
   2.6
   Hct
   27.2
   27.5
   25.6
   26.1
   Plt
   14
   10
   43
   20
   Cr
   1.5
   1.7
   1.8
   1.7
   TCO2
   24
   26
   26
   27
   29
   26
   26
   23
   Glucose
   [**Telephone/Fax (3) 9795**]16
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:14.9/48.0/1.3, CK / CKMB /
   Troponin-T:122/5/0.37, ALT / AST:597/786, Alk Phos / T Bili:73/1.3,
   Amylase / Lipase:23/8, Differential-Neuts:30.0 %, Band:20.0 %,
   Lymph:15.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:3824 ng/mL, Fibrinogen:812
   mg/dL, Lactic Acid:4.1 mmol/L, Albumin:2.2 g/dL, LDH:3153 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   Assesment: This is a 55 year-old female with a history of COPD and
   respiratory failure, MAT/a-flutter, chronic steroid use, who was
   intially admitted to [**Hospital3 **] with MAT/a-fib, respiratory
   distress, intubated and treated for UTI.  Transferred in septic shock
   currently w/ multi-organ failure.
   Plan:
   .
   #. Septic Shock - Patient with persistent tachycardia, fever, high RR
   and left shift. Pt lactate elevated.  Likely source is pseudomonas from
   OSH cx respiratory, although urinary (OSH cx grew proteus) and line
   infection are possible. The patient has been at [**Hospital3 **] and resident
   of [**Hospital1 630**] so nosocomial infections are high on the differential. The
   patient's hypotension is likely multifactorial.   She was placed on
   levophed gtt and dopa gtt.  CXR showed pna vs effusion vs pulm edema vs
   ARDS.
   Hemodynamics
   - albumin to maintain CVP 8-12
   -  albumin Levophed and Dopamine to maintain MAP > 65. Avoid Neo due to
   vasoconstrictive effects on limbs/organs.
   - Transfuse for Hct > 30, will transfuse 1 unit PRBCs today
   - discussed w/ family pt started on CVVH
   Infection: broad coverage for C.diff, gram +/- including VRE. Bactrim
   because long term steroid use.
   - Sputum (4+ GNR, 4+GPC in [**Hospital1 54**] culture, OSH culture showing
   pseudomonas) and blood (GPC, GNR in [**Hospital1 54**] culture). Reported VRE
   surveillance positive in OSH culture.
   - Started linezolid ([**8-16**]), amikacin (started at OSH), flagyl D2.
   - cont treatment with Amikacin given Proteus in urine and pseudomonas
   in sputum, treat with linezolid for VRE coverage (positive screen at
   OSH), meropenem for pseudomonas double coverage
   - will dc vori, as per pharm, and start micofungin
   - Need to renally dose medications
   - f/u [**Hospital1 **] and OSH urine, sputum, blood cxs.
   - trend WBC, fever curve q6h
   - full abdominal U/S to look for further source of infection (ie bowel
   necrosis) as pt persistently febrile
   Metabolic: Has respiratory acidosis, AG metabolic acidosis and
   non-anion gap metabolic acidosis. With low pH on ABG, worry about
   cardiac asystole.
   - f/u abg serial abg
   - Continue to trend lactate
   - currently on CVVHD
   - receiving amps of bicarb to try and ameliorate acidosis
   #. Respiratory Failure: Pt with COPD and frequent admissions for
   respiratory failure.  Currently in ARDS given sudden onset, P/F
   ratio<200, pulmonary edema. Also has underlying pseudomonas pneumonia.
   She was initially admitted to and placed on BiPAP, but required
   intubtion after desat. Possible PNA given pseudomonas in sputum. CXR
   showed b/l diffuse infiltrates/effusions R>L.
   - cont amikacin and [**Last Name (un) 430**] for pseudomonas
   - patient is being dialyzed
   - repeat CXR in AM
   - cont methylpred
   - albuterol/ ipratropium nebs
   - f/u serial abg
   #. Tachycardia: Pt with MAT/a-flutter on admision to OSH. Her rates on
   admission to [**Hospital1 54**] were as high as 150-180's.  She was started on amio
   (bolus 150mg, then 1mg/hr) due to hypotension nodal agents were
   deferred.  Her fast rate is likely contributing to her hypotension.
   She was previously controlled on po lopressor, dilt and dig. Sepsis and
   persistent fevers are likely the cause of her tachycardia. The patient
   has troponin leaks, likely due to demand ischemia.
   - received one dose of dig 0.125 w/ no response, current level 4.4 so
   it was dc
   - Received an amiodarone load on [**8-16**]. Decided to D/C because did not
   want to give oral med. Also, hypotensive and BP will not tolerate
   amiodarone.
   - f/u  echo, LENIs
   - hold on anti-coagulation given bleeding and thrombocytopenia
   ARF: Renal failure was initially likely pre-renal given sepsis. It has
   progressed to ischemic ATN. Currently aniuric.
   - being dialyzed.
   - need to renally dose medications and avoid nephrotoxins.
   - f/u renal note.
   #. DIC:  incresed PT/PTT, LDH. Thrombocytopenia (HIT negative at OSH).
   Fibrinogen elevated.  Platelets down to 10 yesterday, she was
   transfused 1 unit, w/ appropriate rise to 40.  Currently 20.
   -- transfuse 1 unit of platelets if 10 or <
   --Stable DIC [**Last Name (LF) **], [**First Name3 (LF) 178**] cont to monitor and trend.
   --Will treat underlying sepsis and see if DIC improves.
   .
   #. Anemia: Pt
s Hct currently stable at 26.1.
   - active T&C
   - check Hct q 6 hr
   - transfuse to Hct >28
   .
   #Abdominal striae with oozing fluid, total output ~3L. KUB done on [**8-17**]
   did not show anything.
   - will cont to monitor
   - will keep even I/O.
   .
   #. IDDM: Pt on steriods. Will initiated ISS and lantus 24U q12.
   Monitor QACHS FS and cover with ISS.
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  HISS.
   Lines:
   Arterial Line - [**2165-8-16**] 10:30 PM
   Multi Lumen - [**2165-8-17**] 03:27 PM
   HD catheter
 [**2165-8-18**]
   Prophylaxis:
   DVT: none
   Stress ulcer: pantoprazole
   VAP:  elevate HOB 30 degrees
   Comments: on no sedation at the moment
   Communication:  Comments: Will speak to family today about pt
   condition
   Code status: Full code
   Disposition: ICU level of care

2165-08-20 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-8-19**] 08:43 AM
 TRANSTHORACIC ECHO - At [**2165-8-19**] 09:50 AM
   .
   --ID: add colistin (for double coverage of MDR pseudomonas)
   --resp: PEEP 16, no changes made overnight, PCO2 good, pH due to AG
   metab acidosis (lactic from septic shock / uremia), PO2 70 (ok but
   slightly down from 77 so won't [**Month (only) 38**] PEEP or FIO2 yet)
   --CV: levo 0.3, vasopression 2.4 (stable)
   --LENIs: limited study, no DVT
   Allergies:
   Penicillins
   Unknown;
   Valproic Acid And Derivatives
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-8-17**] 08:00 AM
   Bactrim (SMX/TMP) - [**2165-8-18**] 06:30 AM
   Meropenem - [**2165-8-18**] 06:00 PM
   Voriconazole - [**2165-8-19**] 07:48 AM
   Amikacin - [**2165-8-19**] 01:00 PM
   Micafungin - [**2165-8-19**] 02:00 PM
   Linezolid - [**2165-8-19**] 08:15 PM
   Colistin - [**2165-8-19**] 10:00 PM
   Metronidazole - [**2165-8-20**] 04:18 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2165-8-19**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-20**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 153 (105 - 160) bpm
   BP: 142/88(104) {88/51(62) - 142/88(104)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127 kg (admission): 109.8 kg
   Height: 68 Inch
    CVP: 15 (7 - 18)mmHg
   Total In:
                                                                  5,174 mL
                                                                    692 mL
   PO:
   TF:
   IVF:
                                                                  4,587 mL
                                                                    692 mL
   Blood products:
                                                                    537 mL
   Total out:
                                                                 10,020 mL
                                                                  2,059 mL
   Urine:
                                                                      9 mL
                                                                      5 mL
   NG:
                                                                    900 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                  1,250 mL
                                                                    750 mL
   Balance:
                                                                 -4,846 mL
                                                                 -1,367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 86%
   ABG: 7.24/54/82.[**Numeric Identifier 96**]/22/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 83
   Physical Examination
   GEN: intubated, minimally responsive withdraws from pain, large obese
   female, with multiple ecchymosis, cool ext, acutely distressed
   HEENT: 7mm dilated pupils, reactive, sclera anicteric, dry MM,
   intubated
   NECK: difficult to assess JVD, no cervical lymphadenopathy, trachea
   midline
   COR: tachycardic, no M/G/R, S1 S2
   PULM: coarse breathe sounds and rhonchi diffusely with transmitted
   ventilation, no W/R
   ABD: Soft, ND, +BS, large hematoma on right lateral abd, draining skin
   lesion on RLQ
   EXT:  2 + edema, cool ext, mimimal mottling of lower ext
   NEURO: but minimally responsive, pupils dilated, sluggish reaction to
   light.
   SKIN: No jaundice, multiple large ecchymoses on upper and lower ext,
   draining skin lesion on RLQ
   [**Numeric Identifier 503**] / Radiology
   14 K/uL
   9.8 g/dL
   47 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   25 mg/dL
   96 mEq/L
   133 mEq/L
   29.0 %
   1.6 K/uL
        [image002.jpg]
                             [**2165-8-19**]  07:02 AM
                             [**2165-8-19**]  10:32 AM
                             [**2165-8-19**]  10:54 AM
                             [**2165-8-19**]  12:38 PM
                             [**2165-8-19**]  04:43 PM
                             [**2165-8-19**]  05:01 PM
                             [**2165-8-19**]  10:56 PM
                             [**2165-8-19**]  11:19 PM
                             [**2165-8-20**]  04:52 AM
                             [**2165-8-20**]  05:08 AM
   WBC
   3.2
   2.7
   2.0
   1.6
   Hct
   26.6
   29.1
   27.3
   29.0
   Plt
   21
   11
   15
   14
   Cr
   1.4
   1.3
   1.1
   1.0
   TCO2
   23
   21
   23
   23
   24
   24
   Glucose
   126
   73
   74
   47
   Other [**Year (4 digits) **]: PT / PTT / INR:12.3/34.9/1.0, CK / CKMB /
   Troponin-T:122/5/0.37, ALT / AST:380/278, Alk Phos / T Bili:88/2.7,
   Amylase / Lipase:23/8, Differential-Neuts:66.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:3824 ng/mL, Fibrinogen:842
   mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.2 g/dL, LDH:3153 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   .
   .
   Assesment: This is a 55 year-old female with a history of COPD and
   respiratory failure, MAT/a-flutter, chronic steroid use, who was
   intially admitted to [**Hospital3 **] with MAT/a-fib, respiratory
   distress, intubated and treated for UTI.  Transferred in septic shock
   currently w/ multi-organ failure.
   Plan:
   .
   #. Septic Shock - Patient with persistent tachycardia, fever, high RR
   and left shift. Pt lactate elevated. Likely source is MDR pseudomonas
   from OSH cx respiratory, although urinary (OSH cx grew proteus) and
   line infection are possible. The patient has been at [**Hospital3 **] and
   resident of [**Hospital1 630**] so nosocomial infections are high on the
   differential. The patient's hypotension is likely multifactorial.   CXR
   showed pna vs effusion vs pulm edema vs ARDS.
   Infection: Sources, MDR pseudomonas PNA, MRSA PNA leading to
   bacteremia; Proteus UTI is also consideration. She also has a h/o
   C.diff, and VRE. Abd U/S only showed subcu fluid collection.
   - Sputum (4+ GNR pseudomonas, 4+GPC MRSA in [**Hospital1 54**] culture, OSH culture
   showing pseudomonas) and blood (GNR in [**Hospital1 54**] sputum culture)
 amakacin
   and colistin (per ID)
   - amakacin peak and trough
   - growing coag pos staph in blood and h/o VRE
 linezolid ID considers
   changing to vanco since unlikely VRE
   - cont treatment with amikacin given Proteus in urine and pseudomonas
   in sputum
   - continue broad fungal coverage with micafungin, ID considers D/C
   - continue anerobic coverage with flagyl
   - all meds are CVVH dosed
   - f/u cultures and speciation from blood
   - q6h WBC, trend fever curve
   Hemodynamics: likely due to infection, CVP 15. Initially gave albumin
   Levophed and Dopamine to maintain MAP > 65. Avoid Neo due to
   vasoconstrictive effects on limbs/organs.
   - cont CVVH for even fluid balance
   - on levofed / vasopressin at improved doses, continue to wean as
   infection
   Metabolic: Has chronic respiratory acidosis, AG metabolic acidosis due
   to lactic (from infx vs end organ ischemia, such as ?bowel ischemia,
   shock liver vs uremia) and slight non-anion gap metabolic acidosis
   (renal failure). With low pH on ABG, worry about cardiac asystole.
   Lactate now improved to 2.8
   - treating underlying infection (cause of septic shock) per above
   - q4h ABGs
   - Continue to trend lactate
   - currently on CVVHD
   - receiving amps of bicarb to try and ameliorate acidosis
   .
   #. Respiratory Failure: Pt with COPD and frequent admissions for
   respiratory failure. Failure due to multifocal PNA leading to ARDA
   (given sudden onset, P/F ratio<200, pulmonary edema), and fluid
   overload all in setting of chronic COPD and probably bronchiectatic
   lungs given PNA history in the past. She was initially admitted to and
   placed on BiPAP, but required intubtion after desat. CXR showed b/l
   diffuse infiltrates/effusions R>L.  ABGs show ventilation probable at
   pt
s baseline, but oxygenation is tenuous, requiring high levels of
   PEEP and 100% FIO2.
   - wean AC to PEEP of 14 as pt may be on noncompliant part of the curve
   and over-PEEPed right now, if tolerates wean FIO2 to prevent
   hyperoxygenation injury.
   - cont treating infection as above
   - cont CVVH for fluid overload
   - repeat CXR in AM
   - cont methylpred
   - albuterol/ ipratropium nebs
   - q4h ABGs
   .
   #. Tachycardia: Pt with MAT/a-flutter on admision to OSH. Her rates on
   admission to [**Hospital1 54**] were as high as 150-180's.  She was started on amio
   (bolus 150mg, then 1mg/hr) due to hypotension nodal agents were
   deferred.  Her fast rate is likely contributing to her hypotension.
   She was previously controlled on po lopressor, dilt and dig. Sepsis and
   persistent fevers are likely the cause of her tachycardia. The patient
   has troponin leaks, likely due to demand ischemia. Was place on amio
   drip and cardioverted upon admission to sinus tach (130s) for which she
   has multiple likely causes. Received one dose of dig 0.125 w/ no
   response, level was 4.4 so it was dc
d. Echo showed moderate pulm
   hypertension, LENIs showed no DVT (both were poor studies given pt
   body habitus). No longer on dopa or inotropic/chronotropic pressors.
   - currently not on any agents due to pt
s hemodynamic instability
   (hypotension)
   - hold on anti-coagulation given bleeding and thrombocytopenia
   - continue to follow on tele
   .
   # ARF: Renal failure was initially likely pre-renal given sepsis. It
   has progressed to ischemic ATN. Currently aniuric.
   - cont CVVH
   - CVVH dose medications and avoid nephrotoxins.
   - f/u renal note.
   .
   #. DIC: Initially thought to have incresed PT/PTT, LDH.
   Thrombocytopenia (HIT negative at OSH). Fibrinogen elevated.  Platelets
   down to 10 yesterday, she was transfused 1 unit, w/ appropriate rise to
   40.  Currently back down to 14.
   -- transfuse 1 unit of platelets if 10 or <
   --Stable DIC [**Last Name (LF) **], [**First Name3 (LF) 178**] cont to monitor and trend.
   --Will treat underlying sepsis and see if DIC improves.
   .
   #. Anemia: Pt
s Hct currently improved at 29.
   - active T&C
   - check Hct q 6 hr
   - transfuse to Hct >28
   .
   #Abdominal striae with oozing fluid, total output ~3L. KUB done on [**8-17**]
   did not show anything.
   - will cont to monitor
   - will keep even I/O.
   .
   #. IDDM: Pt on steriods.
   - cont ISS, have decreased [**Last Name (un) **] lantus from 24U q12 to 6U q12
   - monitor QACHS FS and cover with ISS.
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  HISS with fixed dose.
   Lines:
   Arterial Line - [**2165-8-16**] 10:30 PM
   Multi Lumen - [**2165-8-17**] 03:27 PM
   HD catheter
 [**2165-8-18**]
   Prophylaxis:
   DVT: none
   Stress ulcer: pantoprazole
   VAP:  elevate HOB 30 degrees
   Comments: on no sedation at the moment
   Communication:  Comments: Will speak to family today about pt
   condition
   Code status: Full code
   Disposition: ICU level of care

2165-08-20 10:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-8-19**] 08:43 AM
 TRANSTHORACIC ECHO - At [**2165-8-19**] 09:50 AM
   .
   --ID: add colistin (for double coverage of MDR pseudomonas)
   --resp: PEEP 16, no changes made overnight, PCO2 good, pH due to AG
   metab acidosis (lactic from septic shock / uremia), PO2 70 (ok but
   slightly down from 77 so won't [**Month (only) 38**] PEEP or FIO2 yet)
   --CV: levo 0.3, vasopression 2.4 (stable)
   --LENIs: limited study, no DVT
   Allergies:
   Penicillins
   Unknown;
   Valproic Acid And Derivatives
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-8-17**] 08:00 AM
   Bactrim (SMX/TMP) - [**2165-8-18**] 06:30 AM
   Meropenem - [**2165-8-18**] 06:00 PM
   Voriconazole - [**2165-8-19**] 07:48 AM
   Amikacin - [**2165-8-19**] 01:00 PM
   Micafungin - [**2165-8-19**] 02:00 PM
   Linezolid - [**2165-8-19**] 08:15 PM
   Colistin - [**2165-8-19**] 10:00 PM
   Metronidazole - [**2165-8-20**] 04:18 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2165-8-19**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-20**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 153 (105 - 160) bpm
   BP: 142/88(104) {88/51(62) - 142/88(104)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127 kg (admission): 109.8 kg
   Height: 68 Inch
    CVP: 15 (7 - 18)mmHg
   Total In:
                                                                  5,174 mL
                                                                    692 mL
   PO:
   TF:
   IVF:
                                                                  4,587 mL
                                                                    692 mL
   Blood products:
                                                                    537 mL
   Total out:
                                                                 10,020 mL
                                                                  2,059 mL
   Urine:
                                                                      9 mL
                                                                      5 mL
   NG:
                                                                    900 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                  1,250 mL
                                                                    750 mL
   Balance:
                                                                 -4,846 mL
                                                                 -1,367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 86%
   ABG: 7.24/54/82.[**Numeric Identifier 96**]/22/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 83
   Physical Examination
   GEN: intubated, minimally responsive withdraws from pain, large obese
   female, with multiple ecchymosis, cool ext, acutely distressed
   HEENT: 7mm dilated pupils, reactive, sclera anicteric, dry MM,
   intubated
   NECK: difficult to assess JVD, no cervical lymphadenopathy, trachea
   midline
   COR: tachycardic, no M/G/R, S1 S2
   PULM: coarse breathe sounds and rhonchi diffusely with transmitted
   ventilation, no W/R
   ABD: Soft, ND, +BS, large hematoma on right lateral abd, draining skin
   lesion on RLQ
   EXT:  2 + edema, cool ext, mimimal mottling of lower ext
   NEURO: but minimally responsive, pupils dilated, sluggish reaction to
   light.
   SKIN: No jaundice, multiple large ecchymoses on upper and lower ext,
   draining skin lesion on RLQ
   [**Numeric Identifier 503**] / Radiology
   14 K/uL
   9.8 g/dL
   47 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   25 mg/dL
   96 mEq/L
   133 mEq/L
   29.0 %
   1.6 K/uL
        [image002.jpg]
                             [**2165-8-19**]  07:02 AM
                             [**2165-8-19**]  10:32 AM
                             [**2165-8-19**]  10:54 AM
                             [**2165-8-19**]  12:38 PM
                             [**2165-8-19**]  04:43 PM
                             [**2165-8-19**]  05:01 PM
                             [**2165-8-19**]  10:56 PM
                             [**2165-8-19**]  11:19 PM
                             [**2165-8-20**]  04:52 AM
                             [**2165-8-20**]  05:08 AM
   WBC
   3.2
   2.7
   2.0
   1.6
   Hct
   26.6
   29.1
   27.3
   29.0
   Plt
   21
   11
   15
   14
   Cr
   1.4
   1.3
   1.1
   1.0
   TCO2
   23
   21
   23
   23
   24
   24
   Glucose
   126
   73
   74
   47
   Other [**Year (4 digits) **]: PT / PTT / INR:12.3/34.9/1.0, CK / CKMB /
   Troponin-T:122/5/0.37, ALT / AST:380/278, Alk Phos / T Bili:88/2.7,
   Amylase / Lipase:23/8, Differential-Neuts:66.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:3824 ng/mL, Fibrinogen:842
   mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.2 g/dL, LDH:3153 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   .
   CXR
 no change
   .
   Micro
 sensitivities and speciations pending
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   .
   .
   Assesment: This is a 55 year-old female with a history of COPD and
   respiratory failure, MAT/a-flutter, chronic steroid use, who was
   intially admitted to [**Hospital3 **] with MAT/a-fib, respiratory
   distress, intubated and treated for UTI.  Transferred in septic shock
   currently w/ multi-organ failure.
   Plan:
   .
   #. Septic Shock - Patient with persistent tachycardia, fever, high RR
   and left shift. Pt lactate elevated. Likely source is MDR pseudomonas
   from OSH cx respiratory, although urinary (OSH cx grew proteus) and
   line infection are possible. The patient has been at [**Hospital3 **] and
   resident of [**Hospital1 630**] so nosocomial infections are high on the
   differential. The patient's hypotension is likely multifactorial.   CXR
   showed pna vs effusion vs pulm edema vs ARDS.
   Infection: Sources, MDR pseudomonas PNA, MRSA PNA leading to
   bacteremia; Proteus UTI is also consideration. She also has a h/o
   C.diff, and VRE. Abd U/S only showed subcu fluid collection.
   - Sputum (4+ GNR pseudomonas, 4+GPC MRSA in [**Hospital1 54**] culture, OSH culture
   showing pseudomonas) and blood (GNR in [**Hospital1 54**] sputum culture)
 amakacin
   and colistin (per ID)
   - amakacin peak and trough
   - growing coag pos staph in blood and h/o VRE
 change linezolid to
   vanco since unlikely VRE
   - cont treatment with amikacin given Proteus in urine and pseudomonas
   in sputum
   - D/C micafungin (per ID)
   - D/C flagyl
   - all meds are CVVH dosed
   - f/u cultures and speciation from blood
   - strict contact precautions
   - q6h WBC, trend fever curve
   Hemodynamics: likely due to infection, CVP 15. Initially gave albumin
   Levophed and Dopamine to maintain MAP > 65. Avoid Neo due to
   vasoconstrictive effects on limbs/organs.
   - cont CVVH for even fluid balance
   - on levofed / vasopressin at improved doses, continue to wean as
   infection
   Metabolic: Has chronic respiratory acidosis, AG metabolic acidosis due
   to lactic (from infx vs end organ ischemia, such as ?bowel ischemia,
   shock liver vs uremia) and slight non-anion gap metabolic acidosis
   (renal failure). With low pH on ABG, worry about cardiac asystole.
   Lactate now improved to 2.8
   - treating underlying infection (cause of septic shock) per above
   - q4h ABGs
   - Continue to trend lactate
   - currently on CVVHD with bicarb
   .
   #. Respiratory Failure: Pt with COPD and frequent admissions for
   respiratory failure. Failure due to multifocal PNA leading to ARDA
   (given sudden onset, P/F ratio<200, pulmonary edema), and fluid
   overload all in setting of chronic COPD and probably bronchiectatic
   lungs given PNA history in the past. She was initially admitted to and
   placed on BiPAP, but required intubtion after desat. CXR showed b/l
   diffuse infiltrates/effusions R>L.  ABGs show ventilation probable at
   pt
s baseline, but oxygenation is tenuous, requiring high levels of
   PEEP and 100% FIO2.
   - weaned to AC PEEP 14, tolerating well this AM, with improved pH, CO2,
   O2. pt may have been on noncompliant part of the curve and over-PEEPed
   right now and may have increased Zone I physiology. Goal today to wean
   FIO2 from 100% to prevent hyperoxygenation injury. Goal PaCO2 >60.
   - can consider decreasing RR later today as PaCO2 now in 40s (pt
   baseline probably >60)
   - cont treating infection as above
   - cont CVVH for fluid overload
   - repeat CXR in AM
   - cont hydrocort 100 q6h, consider tapering in upcoming days when
   decrease pressors
   - albuterol/ ipratropium nebs
   - q4h ABGs
   .
   #. Tachycardia: Pt with MAT/a-flutter on admision to OSH. Her rates on
   admission to [**Hospital1 54**] were as high as 150-180's.  She was started on amio
   (bolus 150mg, then 1mg/hr) due to hypotension nodal agents were
   deferred.  Her fast rate is likely contributing to her hypotension.
   She was previously controlled on po lopressor, dilt and dig. Sepsis and
   persistent fevers are likely the cause of her tachycardia. The patient
   has troponin leaks, likely due to demand ischemia. Was place on amio
   drip and cardioverted upon admission to sinus tach (130s) for which she
   has multiple likely causes. Received one dose of dig 0.125 w/ no
   response, level was 4.4 so it was dc
d. Echo showed moderate pulm
   hypertension, LENIs showed no DVT (both were poor studies given pt
   body habitus). No longer on dopa or inotropic/chronotropic pressors.
   - currently not on any agents due to pt
s hemodynamic instability
   (hypotension)
   - hold on anti-coagulation given bleeding and thrombocytopenia
   - continue to follow on tele
   .
   # ARF: Renal failure was initially likely pre-renal given sepsis. It
   has progressed to ischemic ATN. Currently aniuric.
   - cont CVVH
   - CVVH dose medications and avoid nephrotoxins.
   - f/u renal note.
   .
   # Altered Level of Consciousness: currently not on sedation. may have
   several causes including metabolic/toxic (acidosis, uremia, liver
   failure, sepsis, lactic acidosis) vs hypoxic brain injury vs
   intracranial hemorrhage.
   - can scan head later when more stable to evaluate for acute
   intracranial process / hypoxic injury
   - frequent neuro checks
   .
   #. DIC: Initially thought to have incresed PT/PTT, LDH.
   Thrombocytopenia (HIT negative at OSH). Fibrinogen elevated.  Platelets
   down to 10 yesterday, she was transfused 1 unit, w/ appropriate rise to
   40.  Currently back down to 14.
   -- transfuse 1 unit of platelets if <10
   --Stable DIC [**Last Name (LF) **], [**First Name3 (LF) 178**] cont to monitor and trend daily AM [**First Name3 (LF) **]
   --Will treat underlying sepsis and see if DIC improves.
   .
   #. Anemia: Pt
s Hct currently improved at 29.
   - active T&C
   - check Hct q 6 hr
   - transfuse to Hct >25
   .
   #Abdominal striae with oozing fluid, total output ~3L. KUB done on [**8-17**]
   did not show anything.
   - will cont to monitor
   - will keep even I/O.
   .
   #. IDDM: Pt on steriods.
   - cont ISS, have decreased [**Last Name (un) **] lantus from 24U q12 to 6U q12
   - monitor QACHS FS and cover with ISS.
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  HISS with fixed dose.
   Lines:
   Arterial Line - [**2165-8-16**] 10:30 PM
   Multi Lumen - [**2165-8-17**] 03:27 PM
   HD catheter
 [**2165-8-18**]
   Prophylaxis:
   DVT: none
   Stress ulcer: pantoprazole
   VAP:  elevate HOB 30 degrees
   Comments: on no sedation at the moment
   Communication:  Comments: Will speak to family today about pt
   condition
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 55 yo F with septic shock and MODS. She
   remains on 100% FiO2 with slow improvement in paO2  Remains pressor
   dependent on levophed (slightly down) and vasopressin. Continues on
   CVVH.
   Tm 100.2  BP 110/88  HR 105-150   RR 26   94%  cvp 15
   AC 400/26/14/100%
 7.25/45/93
   intubated, unresponsive, pupils dilated, sluggish but rx,  coarse BS
   throughout, tachy, BS decreased, soft, diffuse echymosis/wheeping, cool
   /mottled ext
   [**Year (4 digits) 503**] reviewed:  20% bands, WBC 1.6, hct 29, plt 14, na 133, INR 1.0,
   lactate 2.8, lfts trending down
   CXR with diffuse b/l ASD and effusions, no sig change
   Micro reviewed, sputum resis psa/cps; bl CNS, gnrs, id pending
   Primary issues remain:
     * septic shock with MODS
     * hypotension
     * resp failure/ards/pulm edema,
     * persistent tachycardia
     * arf
     * persistent bandemia
     * pancytopenia/marrow suppression
     * coagulopathy/low level dic
     * decreased level of consciousness
   MODS in setting of severe septic shock.  Cxs w/ pan resistant PSA
   (sputum) and GNR/CPS bacteremia. Remains pressor dependent, on cvvh on
   full vent support. Prognosis for recovery remains grim, though we are
   seeing small improvements in HD and oxygenation. She remains
   unresponsive without sedation. We continue to work with family to
   address goals of care. We con
t to support for for septic shock,
   maintaining maps > 60 with pressors--wean as able. Regarding her antibx
   coverage, ID input is appreciated--will stop linezolid, resume vanco,
   continue amikacin and colistin, f/u micro.  Will d/c micofuyngin and
   flagyl, given cx results.  She remains on full vent support for ards.
   Continue ards net TV. She is tolerating lower peep with slightly better
   ph and pao2 (? overdistention at higher peep, increased dead space,
   with further benefit from fluid removal, +CVVH). Given mild improvement
   in oxygenation will wean fio2, following serial abgs. Her decreased
   level of consciousness is concerning for anoxic injury from hypoxemia
   and hypotension, cerebreal edema from multiple toxic/,metabolic issues
   and coagulopathy/thrombocytopenia. Serial neuro exams. Image when
   stable for roadtrip.  CVVH with fluid removal and clearance. Continue
   stress hydrocort. Her pancytopenia is most likely from marrow
   suppression from sepsis, possible med effect. Trend lactate, lytes, hct
   and dic [**Year (4 digits) **].  Transfuse for plt < 10. ICU:  SSI, NPO, VAP, HD cath, r
   IJ, radial a line, PPI, full code. Remainder of plan as outlined in
   resident note.  Patient is critically ill. We continue to update family
   and address goals of care given grim prognosis for recovery.
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2165-8-20**] 01:32 PM ------